US05350762
1,2,3,4-Tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid ethyl ester
To a suspension of sodium hydride (60% in oil, 3.0 g, 0.075 mole) in 25 ml of dry dimethylformamide, was added a solution of 1,2,3,4-tetrahydro-7-phenylmethoxycyclopent[b]indole-2-carboxylic acid ethyl ester (23.5 g, 0.07 mole) in 100 ml of dry dimethylformamide. After stirring at ambient temperature for two hours, a solution of methyl iodide (4.7 ml, 0.075 mole) in 20 ml of dimethylformamide was added, and the mixture was stirred at 70° C. for five hours. After cooling, the mixture was poured into 500 ml of water, stirred for five minutes, and then extracted with ethyl acetate (3×). The organic layer was washed successively with water and saturated sodium chloride solution, and dried over anhydrous MgSO4. After filtering, the solvent was evaporated to afford a brown oil (~25 g), which was eluted on a silica gel column with 5% ethyl acetate/dichloromethane via HPLC. The desired fraction was concentrated to a thick brown oil, 20.6 g, which solidified on cooling, m.p. 90°-95° C. A sample of this material was recrystallized from ethanol to give the product as an off-white solid, m.p. 109°-110° C.

reactant | sodium hydride | 0.075 mole, 3.0 g | [H-].[Na+]
reactant | 1,2,3,4-tetrahydro-7-phenylmethoxycyclopent[b]indole-2-carboxylic acid ethyl ester | 0.07 mole, 23.5 g | C(C)OC(=O)C1CC2=C(NC=3C=CC(=CC23)OCC2=CC=CC=C2)C1 | C21H21NO3
reactant | methyl iodide | 0.075 mole, 4.7 ml | CI | CH3I
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid ethyl ester | ~25 g | C(C)OC(=O)C1CC2=C(N(C=3C=CC(=CC23)OCC2=CC=CC=C2)C)C1 | C22H23NO3
